US07151105B2
Step 1: 3-Ethyl-1-methyl-1H-pyrazol-5-ol
Methylhydrazine (31.6 g, 0.687 mol) in methanol (100 mL) was added dropwise to a solution of ethyl 3-oxopentanoate (100 g, 0.694 mol) in methanol (280 mL) over a period of 45 min, during which time the temperature increased to 45° C. The reaction mixture was then allowed to stir at room temperature overnight and then evaporated, affording 84.5 g (97%) of the crude title product.

reactant | Methylhydrazine | 0.687 mol, 31.6 g | CNN | CH6N2
reactant | ethyl 3-oxopentanoate | 0.694 mol, 100 g | O=C(CC(=O)OCC)CC | C7H12O3
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 280 mL | CO | CH4O
product | 3-Ethyl-1-methyl-1H-pyrazol-5-ol | 84.5 g, 97% | C(C)C1=NN(C(=C1)O)C | C6H10N2O
